US06235900B1
Step A. 2-Chloro-4-(3-methyl-1H-pyrazol-1-yl)-benzoic acid methyl ester
Under anhydrous conditions a stirred suspension of hexane washed potassium hydride (0.424 g, 10.6 mmol) in 5 mL of dimethylformamide was treated in one portion with 3-methyl pyrazole (0.85 mL, 10.6 mmol). After the gas evolution ceased, 2-chloro-4-fluorobenzoic acid methyl ester (2.0 g, 10.6 mmol) was added to the clear solution. The mixture was heated at 130° C. for 15 minutes, cooled, and partitioned between ethyl acetate and brine. The organic layer was washed with water and brine, and dried over sodium sulfate. Removal of solvent afforded 2.2 g of a yellow oil consisting of a mixture of 3-methyl and 5-methylpyrazole regioisomers. In addition, about 20% of the acid derived from hydrolysis of the ester was detected by analysis of the NMR spectrum of the crude product. The desired 3-methylpyrazole regioisomer was separated from the 5-methyl isomer of Example 16 by flash chromatography (on silica Merck-60, dichloromethane-hexane 2:1) and was isolated as a white solid (1.55 g).

reactant | hexane | CCCCCC | C6H14
reactant | potassium hydride | 10.6 mmol, 0.424 g | [H-].[K+]
reactant | 3-methyl pyrazole | 10.6 mmol, 0.85 mL | CC1=NNC=C1 | C4H6N2
reactant | 2-chloro-4-fluorobenzoic acid methyl ester | 10.6 mmol, 2.0 g | COC(C1=C(C=C(C=C1)F)Cl)=O | C8H6ClFO2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-Chloro-4-(3-methyl-1H-pyrazol-1-yl)-benzoic acid methyl ester | 2.2 g | COC(C1=C(C=C(C=C1)N1N=C(C=C1)C)Cl)=O | C12H11ClN2O2
